US05721185
The procedure of example 111 was followed using two consecutive additions of a catalyst solution prepared by mixing 5.0 micromoles of [C5 Me4)SiMe2N(t-Bu)]Ti(CH3)2 and 5.0 micromoles of the Lewis acid, B(C6F5)3, mixed in 2 mL of Isopar® E. The reaction temperature was 130° C. 1200 mL of a solution containing 50 mL of 5-ethylidene-2-norbornene in Isopar® E and 50 psi (0.34 ΔMPa) hydrogen were added. The ethylene pressure was 475 psig (3.38 MPa). The polymerization time was 20 minutes. 59.9 g of an ethylene/5-ethylidene-2-norbornene copolymer was isolated. The melt index, I2, was 1.55. The polymer contains 9.06 weight percent 5-ethylidene-2-norbenene as determined by 13C NMR.

reactant | B(C6F5)3 | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
reactant | hydrogen | [H][H] | H2
reactant | ethylene | C=C | C2H4
reactant | 5-ethylidene-2-norbornene | 50 mL | C(C)=C1C2C=CC(C1)C2 | C9H12
product | ethylene 5-ethylidene-2-norbornene | 59.9 g | C=C.C(C)=C1C2C=CC(C1)C2 | InChI=1S/C9H12.C2H4/c1-2-8-5-7-3-4-9(8)6-7;1-2/h2-4,7,9H,5-6H2,1H3;1-2H2
